US04533511
A polyester of 1,1-bis-(4-hydroxy-phenyl)-1-phenyl-ethane (diphenol B) and an equimolar mixture of isophthaloyl chloride and terephthaloychloride were reacted in a two-phase boundary surface to form a diphenol B polyester with an η inh.=0.76 dl/g. 1.9 kg of the said polyester were dissolved in 8.1 mg of 1,2-dichloroethane to obtain 10 kg of a spinning solution with a FB viscosity of 63 s/400 mm. The spinning procedure of Example 1 was repeated with the spinning solution to obtain individual fibers with the following properties: titer of 2.5 den; elasticity modulus of 1.41×106N/cm2 ; tensile strength of 1.03×104N/cm2 (0.97 g/den); and tear elongation of 7.8%.

reactant | 1,1-bis-(4-hydroxy-phenyl)-1-phenyl-ethane | OC1=CC=C(C=C1)C(C)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C20H18O2
reactant | isophthaloyl chloride | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
product | diphenol | C1=CC=C(C(=C1)C2=CC(=CC=C2)O)O | C12H10O2
